US08669229B2
Trimethylamine (30% solution, 0.5 ml) was added to an ethanol solution (10 ml) of {7-chloro-1-[2-methyl-4-(2-methyl-benzoylamino)-benzoyl]-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yl}(2-chloroethy)carbamate (330 mg), and the mixture was heated at 170° C. for 15 minutes (microwave reactor). After cooling to room temperature, the reaction mixture was concentrated under reduced pressure. To the residue was added ethyl acetate, and the resulted precipitates were collected by filtration and dried to obtain 120 mg of (2-{7-chloro-1-[2-methyl-4-(2-methyl-benzoylamino)-benzoyl]-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yloxycarbonylamino}-ethyl)-trimethyl-ammonium chloride as white powder.

reactant | Trimethylamine | 0.5 ml | CN(C)C | C3H9N
reactant | {7-chloro-1-[2-methyl-4-(2-methyl-benzoylamino)-benzoyl]-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yl}(2-chloroethy)carbamate | 330 mg | ClC1=CC2=C(N(CCCC2OC(NCCCl)=O)C(C2=C(C=C(C=C2)NC(C2=C(C=CC=C2)C)=O)C)=O)C=C1 | C29H29Cl2N3O4
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | (2-{7-chloro-1-[2-methyl-4-(2-methyl-benzoylamino)-benzoyl]-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yloxycarbonylamino}-ethyl)-trimethyl-ammonium chloride | 120 mg | [Cl-].ClC1=CC2=C(N(CCCC2OC(=O)NCC[N+](C)(C)C)C(C2=C(C=C(C=C2)NC(C2=C(C=CC=C2)C)=O)C)=O)C=C1 | InChI=1S/C32H37ClN4O4.ClH/c1-21-9-6-7-10-25(21)30(38)35-24-13-14-26(22(2)19-24)31(39)36-17-8-11-29(27-20-23(33)12-15-28(27)36)41-32(40)34-16-18-37(3,4)5;/h6-7,9-10,12-15,19-20,29H,8,11,16-18H2,1-5H3,(H-,34,35,38,39,40);1H
